US05620997
2-(4-Methylpyridin-2-yl)-3-oxo-3h-benzo[d]isothiazole
Using the method of Fischer and Hurni (Arzneimittel Forsch., 1964;14:1301) 5.4 g (0.05 mol) of 2-amino-4-methylpyridine in 50 mL of pyridine at 10° C. was reacted with 10.3 g (0.05 mol) of 2-chlorosulfenylbenzoyl chloride. The mixture was heated to 50° C. and maintained at that temperature for 2 hours. The mixture was cooled to 25° C. and filtered. The solid was recrystallized from benzene to give 4.5 g of the title compound, mp 195°-196.5° C.

reactant | 2-amino-4-methylpyridine | 0.05 mol, 5.4 g | NC1=NC=CC(=C1)C | C6H8N2
reactant | 2-chlorosulfenylbenzoyl chloride | 0.05 mol, 10.3 g | ClSC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2OS
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-Methylpyridin-2-yl)-3-oxo-3h-benzo[d]isothiazole | 4.5 g | CC1=CC(=NC=C1)N1SC2=C(C1=O)C=CC=C2 | C13H10N2OS
